US05420270
2-[(8-chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]benzoic acid
A stirred mixture of 8-chloro-dibenz[b,f]-[1,4]oxazepine (3.35 g) and phthalic anhydride (2.13 g) in THF (40 mL) was heated to reflux for 4 days. The mixture was concentrated and the residue was triturated with ether. The precipitated solid was filtered to give the title compound as a white solid (3.84 g).

reactant | 8-chloro-dibenz[b,f]-[1,4]oxazepine | 3.35 g | ClC1=CC2=C(OC3=C(C=N2)C=CC=C3)C=C1 | C13H8ClNO
reactant | phthalic anhydride | 2.13 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-[(8-chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]benzoic acid | 3.84 g | ClC1=CC2=C(OC3=C(CN2C(=O)C2=C(C(=O)O)C=CC=C2)C=CC=C3)C=C1 | C21H14ClNO4
